US07741341B2
1.80 g (7.43 mmol) 1-(2-Methoxy-ethoxy)-2,3-dinitro-benzene were dissolved in 250 mL MeOH. The solution was evacuated and rinsed with argon several times. 250 mg palladium on charcoal (10%) were added and again the mixture was evacuated and rinsed with argon several times. Finally argon was exchanged by hydrogen (balloon filled with hydrogen) and the mixture was stirred for 2 h at room temperature. The reaction mixture was filtered over “Celite” and the filter residue was washed with 100 mL MeOH. The filtrate was concentrated under vacuo to give pure 3-(2-Methoxy-ethoxy)-benzene-1,2-diamine as a brown oil. Yield: 1.33 g MS (ES+): m/e=183.

reactant | 1-(2-Methoxy-ethoxy)-2,3-dinitro-benzene | 7.43 mmol, 1.80 g | COCCOC1=C(C(=CC=C1)[N+](=O)[O-])[N+](=O)[O-] | C9H10N2O6
solvent | MeOH | 250 mL | CO | CH4O
product | 3-(2-Methoxy-ethoxy)-benzene-1,2-diamine | COCCOC1=C(C(=CC=C1)N)N | C9H14N2O2
